*
* NGSPICE simulation script
* BJT amp with feedback
*

*Values:  R1 = 1.00455407009 
*R2 = 2.04596274404 
*R3 = 3.09144622662 
*R4 = 4.11831176554 
*R5 = 3.01223930062 
*R6 = 2.09613044241 
*R7 = 1.04911840913 
*Vs = 5.24627171439 
*C = 1.01890083211 
*Kb = 7.12576427883 
*Kc = 8.23427638445 

* forces current values to be saved
.options savecurrents

Vs n1 0 5.24627171439

R1 n1 n2 1.00455407009

R2 n2 n3 2.04596274404

R3 n2 n5 3.09144622662

Gb n6 n3 n2 n5 7.12576427883

R4 0 n5 4.11831176554

R5 n5 n6 3.01223930062

R6 0 n7 2.09613044241

VHc n7 nex 0 

Hc n5 n8 VHc 8.23427638445

C n6 n8 1.01890083211

R7 nex n8 1.04911840913


.control

set numdgt = 16;

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all

echo  "op_END"

quit
.endc

.end
